US03947577
To 2-cyanopyridine (2 g.) in methanol (30 ml.) is added sodium (0.1 g.). The solution is allowed to stand 0.5 hours at ambient temperature and is then added to a solution of 1-methyl-2-isonicotinoylhydrazine (3 g.) in methanol (50 ml.). The solution is heated at reflux 4 hours and concentrated to a gum. After chromatography on silica gel and recrystallization from acetonitrile-water 450 mg. of 1-methyl-3-(4-pyridyl)-5-(2-pyridyl)-1,2,4-triazole are obtained, melting at 145°-146° C.

reactant | 2-cyanopyridine | 2 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | sodium | 0.1 g | [Na] | Na
reactant | 1-methyl-2-isonicotinoylhydrazine | 3 g | CNNC(C1=CC=NC=C1)=O | C7H9N3O
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 1-methyl-3-(4-pyridyl)-5-(2-pyridyl)-1,2,4-triazole | CN1N=C(N=C1C1=NC=CC=C1)C1=CC=NC=C1 | C13H11N5
